US07390904B2
1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol
A mixture of 0.107 g (1.27 mmol) of sodium bicarbonate in 3 ml of water is added to a mixture of 10.00 g (63.6 mmol) of 2,2,6,6-tetramethylpiperidin-4-ol and 8 ml of acetonitrile that has been heated to 60° C. A solution of 9.80 g (144 mmol) of 50% aqueous hydrogen peroxide is added to the reaction mixture dropwise over 2.5 hours as the reaction temperature is maintained at 70-72° C. Upon cooling the reaction mixture is diluted with acetonitrile and cyclohexane, and then saturated sodium chloride solution and solid sodium chloride are added. The aqueous layer is extracted three times with a mixture of cyclohexane and acetonitrile. The aqueous layer is discarded. To the combined organic layers are added cyclohexane and acetonitrile to bring the total amount of solvent to 70 ml and 105 ml, respectively. The reaction mixture is heated to near reflux, and a solution of 0.532 g (1.97 mmol) of ferric chloride hexahydrate and 0.602 g (6.26 mmol) of methanesulfonic acid in 5 ml of water is added over several minutes. A solution of 16.50 g (243 mmol) of 50% aqueous hydrogen peroxide is added to the reaction mixture dropwise over 4.25 hours as the reaction temperature is maintained at reflux (61° C.). A solution of 0.163 g of ferric chloride hexahydrate and 0.198 g of methanesulfonic acid in 2 ml of water is added to the reaction mixture 2.25 hours after the peroxide addition is begun. A solution of 0.083 g of ferric chloride hexahydrate and 0.117 g of methanesulfonic acid in 1 ml of water is added to the reaction mixture 3.25 hours after the peroxide addition is begun. The reaction mixture is heated at 50-60° C. for 30 minutes after the peroxide is added. Work up according to the procedure of Example 54 gives 11.95 g (74% yield) of the title compound, GC assay 87%.

reactant | 2,2,6,6-tetramethylpiperidin-4-ol | 63.6 mmol, 10.00 g | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | hydrogen peroxide | 144 mmol, 9.80 g | OO | H2O2
reactant | sodium chloride | [Cl-].[Na+]
reactant | methanesulfonic acid | 6.26 mmol, 0.602 g | CS(=O)(=O)O | CH4O3S
reactant | hydrogen peroxide | 243 mmol, 16.50 g | OO | H2O2
reactant | cyclohexane | C1CCCCC1 | C6H12
solvent | water | 3 ml | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | 5 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 1 ml | O | H2O
catalyst | sodium bicarbonate | 1.27 mmol, 0.107 g | C([O-])(O)=O.[Na+]
catalyst | methanesulfonic acid | 0.198 g | CS(=O)(=O)O | CH4O3S
catalyst | methanesulfonic acid | 0.117 g | CS(=O)(=O)O | CH4O3S
solvent | acetonitrile | 8 ml | C(C)#N | C2H3N
product | 1-Cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-ol | 11.95 g, 74% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)O)(C)C | C15H29NO2
